US08217066B2
Step 1: 1-{4′-[3-Methyl-4-(3-phenethyl-oxiranyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.343 g, 0.718 mmol) and m-chloroperbenzoic acid (0.181 g, 0.79 mmol) were stirred in CH2Cl2 overnight. An additional portion of m-chloroperbenzoic acid was added and the reaction stirred overnight again. Standard aqueous workup and silica gel chromatography (0-100% EtOAc in hexanes) afforded the title compound.

reactant | 1-{4′-[3-Methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.718 mmol, 0.343 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C=CCCC1=CC=CC=C1 | C32H31NO3
reactant | m-chloroperbenzoic acid | 0.79 mmol, 0.181 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-{4′-[3-Methyl-4-(3-phenethyl-oxiranyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C1OC1CCC1=CC=CC=C1 | C32H31NO4
